US04055411
5.25 g (0.02 mol) of 4,6-dichloro-5-nitro-2-trifluoromethyl-pyrimidine (J. Org. Chem. 26 (1961), pp. 4504-8) are dissolved in 150 ml of abs. ethanol. The solution is treated with 5 ml of triethylamine (0.05 mol) and 4.5 g (0.1 mol) of ethylamine and the mixture is stirred overnight, then evaporated to dryness. The residue is taken up in ether and washed with water. The ethereal phase is dried and concentrated to yield 5.5 g of 4,6-bis-ethylamino-5-nitro-2-trifluoromethyl-pyrimidine; m.p. 60°-65° C.

reactant | 4,6-dichloro-5-nitro-2-trifluoromethyl-pyrimidine | 0.02 mol, 5.25 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)C(F)(F)F | C5Cl2F3N3O2
reactant | triethylamine | 0.05 mol, 5 ml | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 0.1 mol, 4.5 g | C(C)N | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 4,6-bis-ethylamino-5-nitro-2-trifluoromethyl-pyrimidine | 5.5 g | C(C)NC1=NC(=NC(=C1[N+](=O)[O-])NCC)C(F)(F)F | C9H12F3N5O2
